US08202858B2
4-[(tert-Butoxycarbonyl-cyclopropyl-amino)-methyl]-piperidine-1-carboxylic Acid Benzyl Ester
DMAP (127 mg, 1.04 mmol) and di-tert-butyl dicarbonate (3.4 g, 12.5 mmol) were added to a solution of 4-cyclopropylaminomethyl-piperidine-1-carboxylic acid benzyl ester from Example E38.1 (3.0 g, 10.4 mmol) in dichloromethane (50 ml) and triethylamine (to pH9). The mixture was stirred for 20 h at room temperature then concentrated in vacuo. The residue was dissolved in EtOAC, washed with saturated NaHCO3 then brine, dried and concentrated in vacuo. The residue was purified by flash chromatography on silica gel (eluant; 40% EtOAc:60% hexane) to yield the title compound (3.67 g, 92%).

reactant | di-tert-butyl dicarbonate | 12.5 mmol, 3.4 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | 4-cyclopropylaminomethyl-piperidine-1-carboxylic acid benzyl ester | C(C1=CC=CC=C1)OC(=O)N1CCC(CC1)CNC1CC1 | C17H24N2O2
catalyst | DMAP | 1.04 mmol, 127 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
solvent | triethylamine | pH9 | C(C)N(CC)CC | C6H15N
product | 4-[(tert-Butoxycarbonyl-cyclopropyl-amino)-methyl]-piperidine-1-carboxylic Acid Benzyl Ester | 3.67 g, 92% | C(C1=CC=CC=C1)OC(=O)N1CCC(CC1)CN(C1CC1)C(=O)OC(C)(C)C | C22H32N2O4
